US08710163B2
2,4,6-Trimethyl-N-{[1-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2-naphthyl]methyl}aniline (4b).
A mixture of 29.2 g (216 mmol) of 2,4,6-trimethylaniline, 50.0 g (144 mmol) of 2-[2-(bromomethyl)-1-naphthyl]-4,4,5,5-tetramethyl-1,3,2-dioxaborolane, and 22.0 g (159 mmol) of K2CO3 in 1100 cm3 of DMF was stirred at 80° C. for 12 h. The resulting mixture was poured into 2000 cm3 of water. The product was extracted with 3×400 ml of ethyl acetate. The combined extract was dried over MgSO4 and then evaporated to dryness. The product was isolated by flash chromatography on silica gel 60 (40-63 um; eluent: dichloromethane). Yield 45.0 g (78%). Anal. Calc. For C26H32BNO2: C, 77.81; H, 8.04; N, 3.49. Found: C, 77.99; H, 8.24; N, 3.26. 1H NMR (CDCl3): 8.27 (m, 1H, 8-H in naphthyl), 7.84 (m, 1H, 5-H in naphthyl), 7.81 (d, J=8.4 Hz, 1H, 4-H in naphthyl), 7.54 (m, 1H, 7-H in naphthyl), 7.48 (m, 1H, 6-H in naphthyl), 7.37 (d, J=8:4 Hz, 1H, 3-H in naphthyl), 6.87 (s, 2H, 3,5-H in mesityl), 4.39 (s, 2H, CH2N), 3.68 (br.s, 1H, NH), 2.31 (s, 6H, 2,6-Me in mesityl), 2.30 (s, 3H, 4-H in mesityl), 1.49 (s, 12H, CMe2CMe2).

reactant | 2,4,6-trimethylaniline | 216 mmol, 29.2 g | CC1=C(N)C(=CC(=C1)C)C | C9H13N
reactant | 2-[2-(bromomethyl)-1-naphthyl]-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 144 mmol, 50.0 g | BrCC1=C(C2=CC=CC=C2C=C1)B1OC(C(O1)(C)C)(C)C | C17H20BBrO2
reactant | K2CO3 | 159 mmol, 22.0 g | C(=O)([O-])[O-].[K+].[K+]
reactant | water | 2000 cm3 | O | H2O
solvent | DMF | 1100 cm3 | CN(C)C=O | C3H7NO
product | 2,4,6-Trimethyl-N-{[1-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2-naphthyl]methyl}aniline | CC1=C(NCC2=C(C3=CC=CC=C3C=C2)B2OC(C(O2)(C)C)(C)C)C(=CC(=C1)C)C | C26H32BNO2
